US04592866
4-[2-(Dimethylamino)ethyl]-3,4-dihydro-2-methyl[1,4]-oxazepino[6,7-f]quinoline-1(2H)-thione hydrochloride
Following the procedure of Example 31, 4-(2-chloroethyl)-3,4-dihydro-2-methyl-[1,4]-oxazepino[6,7-f]quinoline-1(2H)-thione is reacted with dimethylamine to give the title compound.

reactant | 4-(2-chloroethyl)-3,4-dihydro-2-methyl-[1,4]-oxazepino[6,7-f]quinoline-1(2H)-thione | ClCCC1OC=2C(=C3C=CC=NC3=CC2)C(N(C1)C)=S | C15H15ClN2OS
reactant | dimethylamine | CNC | C2H7N
product | 4-[2-(Dimethylamino)ethyl]-3,4-dihydro-2-methyl[1,4]-oxazepino[6,7-f]quinoline-1(2H)-thione hydrochloride | Cl.CN(CCC1OC=2C(=C3C=CC=NC3=CC2)C(N(C1)C)=S)C | InChI=1S/C17H21N3OS.ClH/c1-19(2)10-8-12-11-20(3)17(22)16-13-5-4-9-18-14(13)6-7-15(16)21-12;/h4-7,9,12H,8,10-11H2,1-3H3;1H
